datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([S:9][H:20])([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[S:3])[H:19])[H:6])([H:4])[H:5].[C:7]([C:8]([S:9][H:20])[c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])([H:16])([H:17])[H:18],50.6264
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20],4.184
[C:0](=[C:1]([C:2]([C:3]([H:17])([H:18])[H:19])[C:4](=[C:5]([C:6]([C:7]([C:8](=[C:9]([H:25])[H:26])[H:24])=[C:10]([C:11]([H:27])([H:28])[H:29])[C:12](=[C:13]([H:31])[H:32])[H:30])([H:22])[H:23])[H:21])[H:20])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]1([C:3]([H:17])([H:18])[H:19])[C:4]([H:20])=[C:5]([H:21])[C:6]([H:22])([H:23])[C:7]([C:8](=[C:9]([H:25])[H:26])[H:24])[C:10]1([C:11]([H:27])([H:28])[H:29])[C:12](=[C:13]([H:31])[H:32])[H:30])[H:16])([H:14])[H:15],132.507
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([O:9][O:10])([H:11])([H:12])[H:13]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:10][O:9][C:8]([H:11])([H:12])[H:13],71.5464
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:10]([C:9](=[C:8]([H:14])[H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])[H:4],80.7094
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11](=[C:12][C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:12](=[C:11]([H:14])[H:15])[C:13]([H:16])([H:17])[H:18])([H:5])[H:6],15.0206
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])([H:18])[H:19])([H:16])[H:17])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])[C:7]1([H:21])[H:22],25.9408
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])[C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])=[C:5]([H:18])[H:19])([H:9])([H:10])[H:22].[C:6](=[C:7]([C:8]([H:24])([H:25])[H:26])[H:23])([H:20])[H:21],224.898368
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:8])[H:7],40.7103
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])([H:26])([H:27])[H:28]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[C:23]([C:22]([H:26])([H:27])[H:28])([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:13])([H:10])([H:11])[H:12],26.1082
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30])[H:12])([H:10])[H:11],32.3005
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:13])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],-3.01248
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8].[O:19][O:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:6][O:19][O:20],0.0
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:9]>>[C:0]1([H:9])=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]12[C:4]([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]([H:16])=[C:8]2[H:17],102.658624
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[c:7]1([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:13])([H:4])[H:5].[c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],97.9056
